US05726192
3-[6-Amino-2-pyridinyl]-propionyl-glycyl-(L)-aspartyl-(L)-phenylalanine
3-(2-[6-Aminopyridyl])-propionic acid (63 mg, 0.28 mmol), HOBT (50 mg, 0.37 mmol), HCl.H2N-Gly-Asp(OBn)-Phe-OBn (155 mg, 0.28 mmol) and diisopropylethylamine were combined in 7 ml of dry dimethylformamide. The reaction mixture was cooled to 0° C. EDC (68 mg, 0.35 mmol) was added in one portion, the reaction mixture allowed to warm to room temperature and placed under argon. After 18 hours, the dimethylformamide was removed on a rotovap at 40° C. The residue was partitioned between ethyl acetate and water, and the organic layer rinsed one time with water, two times with 5% citric acid, once again with water, twice with 5% sodium bicarbonate solution, again with water, and finally one time with brine. The organic solution was dried on sodium sulfate, and the ethyl acetate removed. From this solution was recovered 85 mg (55%) of the starting peptide. The combined aqueous rinses were adjusted to pH 9 using dilute NaOH, and extracted with dichloromethane. Chromatography was carried out on the oil thus obtained on silica gel using 5% methanol/methylene chloride. The product thus obtained (30 mg, 0.5 mmol) was dissolved in 5 ml of ethanol, and treated with 10% Pd/C (wetted with butanol) (10 mg). The flask was flushed with H2, and stirred under an atmosphere of H2 for 18 hours. After this time, TLC showed some starting material, so an additional 7 mg of 10% Pd/C was added, and the reaction mixture placed again under H2. After 24 additional hours, the solvents were removed using a roto-evaporator, and the residue treated with 1% acetic acid in water. The solution was filtered, and purified using HPLC. This afforded 19 mg of the desired product as a white powder. Overall yield: 10%. NMR (CD3OD): 7.79 ("t", 1H, J=8.1); 7.22 (m, 5H); 6.81 (d, 1H, J=9.0); 6.73 (d, 1H, J=7.2); 4.74 ("t", 1H, J=5.1); 4.61 (m, 1H); 3.85 (s, 2H); 3.18 ("a-b"d, 1H, J=4.5); 3.02 (m, 3H); 2.79 ("a-b"d, 1H, J=5.0); 2.66 (m, 3H). Mass spectrum: 484 (m-H)- ; 598 (M+CF3COO-). EA: Calculated for C23H27N5O7.2.5 F3C3O2H.2.5 H2O: C, 41.24; H, 4.22; N, 8.59. Found: C, 41.30; H, 4.26; N, 8.81.

reactant | HOBT | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl.H2N-Gly-Asp(OBn)-Phe-OBn | 0.28 mmol, 155 mg | N(CC(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)N.Cl
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 0.35 mmol, 68 mg
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 3-[6-Amino-2-pyridinyl]-propionyl-glycyl-(L)-aspartyl-(L)-phenylalanine | yield: 10% | NC1=CC=CC(=N1)CCC(=O)NCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C23H27N5O7
